US05449785
A mixture of trifluoroacetic acid (3.28 ml) and water (6.43 ml) was added to a vigorously stirred solution of (2S,3R,4S,5S)-3-(tert-butyldimethylsilyloxy)-2-[(tert-butyldimethylsilyloxy)methyl]-4-methoxy-5-methyltetrahydro-2H-pyran (1.0 g, 2.48 mmole) in dry THF (6.43 ml) at 5° C. After vigorous stirring for 25 min at 5° C., the reaction mixture was carefully quenched by the addition of cold saturated aqueous sodium bicarbonate (30 ml). The resulting emulsion was partitioned between ether (50 ml) and water (50 ml). The ether layer was washed with water (20 ml×2), dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The residue was chromatographed on silica gel using AcOEt:n-hexane (2:8) as an eluent to give (2S,3R,4S,5S)-[3-(tert-butyldimethyl-silyloxy)-4-methoxy-5-methyltetrahydro-2H-pyran-2-yl]methanol (0.595 g, 83% yield) as a colorless oil; EI-MS: m/z 290 (M+ ); 1H-NMR (CDCl3)d: 0.87 (9H,s), 0.97 (3H,d,J=7 Hz), 1.92 (1H, br.s), 2.2 (1H, m), 3.14 (2H,m), 3.28 (3H,s), 3.56 (1H,t,J=9 Hz), 3.57 (1H,dd,J=3 & 11.5 Hz), 3.65 (1H,br.dd,J=6 & 11 Hz), 3.78 (1H,dd,J=2 & 11.5 Hz), 3.84 (1H,br.dd,J=2 & 11 Hz).

reactant | trifluoroacetic acid | 3.28 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 6.43 ml | O | H2O
reactant | (2S,3R,4S,5S)-3-(tert-butyldimethylsilyloxy)-2-[(tert-butyldimethylsilyloxy)methyl]-4-methoxy-5-methyltetrahydro-2H-pyran | 2.48 mmole, 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](OC[C@@H]([C@@H]1OC)C)CO[Si](C)(C)C(C)(C)C | C20H44O4Si2
solvent | THF | 6.43 ml | C1CCOC1 | C4H8O
product | (2S,3R,4S,5S)-[3-(tert-butyldimethyl-silyloxy)-4-methoxy-5-methyltetrahydro-2H-pyran-2-yl]methanol | 0.595 g, 83% yield | C(C)(C)(C)[Si](O[C@H]1[C@@H](OC[C@@H]([C@@H]1OC)C)CO)(C)C | C14H30O4Si
